US05017569
(B) 3,4-Diacetoxybenzenesulphonyl chloride
To a solution of the crude, 3,4-diacetoxy benzene sulphonic acid (0.83 g) in a mixture of sulpholane (1.5 ml) and acetonitrile (1.5 ml) was added at room temperature successively N,N-dimethylacetamide (75 μl), triethylamine (0.85 ml) and phosphorus oxychloride (1.1 ml). The reaction mixture was thereafter heated for 15 minutes at 70° C., cooled, poured onto water and extracted with CH2Cl2. The extract was dried over magnesium sulphate, concentrated and chromatographed on silica gel (50 g). Elution with CH2Cl2 gave 0.65 g (74%) of the title compound as a white solid. NMR in CDCl3 : 2.33(s,6H); 7.29(d,1H); 7.90(s,1H); 7.95(dd,1H).

reactant | 3,4-diacetoxy benzene sulphonic acid | 0.83 g | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)S(=O)(=O)O | C10H10O7S
reactant | N,N-dimethylacetamide | 75 μl | CN(C(C)=O)C | C4H9NO
reactant | triethylamine | 0.85 ml | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 1.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | sulpholane | 1.5 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | 3,4-Diacetoxybenzenesulphonyl chloride | 0.65 g, 74% | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)S(=O)(=O)Cl | C10H9ClO6S
